US08426449B2
Step 3: [3-(2-{[Methoxycarbonyl-((S)-1-methyl-2-phenyl-ethyl)-amino]-methyl}-4-nitro-phenoxy)-phenyl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 3, Step 3, using the following starting materials: (3-{2-[((S)-1-methyl-2-phenyl-ethylamino)-methyl]-4-nitro-phenoxy}-phenyl)-acetic acid ethyl ester and methyl chloroformate.

reactant | (3-{2-[((S)-1-methyl-2-phenyl-ethylamino)-methyl]-4-nitro-phenoxy}-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])CN[C@H](CC1=CC=CC=C1)C)=O | C26H28N2O5
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | [3-(2-{[Methoxycarbonyl-((S)-1-methyl-2-phenyl-ethyl)-amino]-methyl}-4-nitro-phenoxy)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])CN([C@H](CC1=CC=CC=C1)C)C(=O)OC)=O | C28H30N2O7
